US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(acetyl)-2-(p-anisidino)acetic acid and methyl 4-(p-anisidino)butyrate and suitable processing produces methyl N-[N-(acetyl)-2-(p-anisidino)acetyl]-4-(p-anisidino)butyrate (oil), saponification of which and processing of the reaction product yields N-[N-acetyl-2-(p-anisidino)acetyl]-4-(p-anisidino)butyric acid (M.P. 97° to 100°).

reactant | N-(acetyl)-2-(p-anisidino)acetic acid | C(C)(=O)N(C1=CC=C(OC)C=C1)CC(=O)O | C11H13NO4
reactant | methyl 4-(p-anisidino)butyrate | COC1=CC=C(C=C1)NCCCC(=O)OC | C12H17NO3
product | methyl N-[N-(acetyl)-2-(p-anisidino)acetyl]-4-(p-anisidino)butyrate | C(C)(=O)N(C1=CC=C(OC)C=C1)CC(=O)N(C1=CC=C(OC)C=C1)CCCC(=O)OC | C23H28N2O6
